Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
right flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo man with no past medical history who
presents with several days of right flank pain.

Symptoms began one week ago when he began to have fevers, 
chills,
and right flank pain. Over the course on the week he also
experienced body pain and night sweating. Two days ago he went 
to
urinate and had excruciating pain following by hematuria. This
prompted him to come into the ED. 

He denies any history of kidney stones or other urinary issues.
Of note his girlfriend had fevers and chills this week and was
diagnosed with appendicitis which she had removed. He thought
they had the same thing.  

In the ED vitals were stable T 97.6, HR 73, BP 131/79, RR19,
O2Sat 100. He had a CTU which showed stranding around to the
right kindey with an area of possible abscess. Urology was
consulted and felt this was all likely due to a passed stone and
that the possible abscess does not need to be drained for now as
might be a complex cyst. He was started on zosyn and received
several doses. He also received Tylenol for pain. He was 
admitted
to medicine for further antibiotics.

On arrival to floor he endorses right flank pain now ___ which
improved with Tylenol. He denies any nausea, vomiting, abdominal
pain. He states his last bowel movement was yesterday and was
normal. He denies any weight loss.  
 
Past Medical History:
none
 
Social History:
___
Family History:
Twin brother (fraternal) has reactive arthritis and other 
autoimmune issues is on humira. Mother bilateral hip 
replacements 
 
Physical Exam:
Admission Physical Exam:
========================
VS: reviewed and normal 
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, 
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nondistended miminal tenderness in RUQ, normal
bowel sounds 
Had CVA tenderness on right, no CVA tenderness left 
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. 
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

Discharge Physical Exam:
========================
VS: reviewed and normal 
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, 
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nondistended miminal tenderness in RUQ, normal
bowel sounds 
Had CVA tenderness on right, no CVA tenderness left 
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. 
Psychiatric: pleasant, appropriate affect
GU: no catheter in place
 
Pertinent Results:
Admission Labs:
===============
___ 02:20PM BLOOD ___ 
___ Plt ___
___ 02:20PM BLOOD ___ 
___ Im ___ 
___
___ 02:20PM BLOOD ___ 
___
___ 10:31PM BLOOD ___

Imaging:
========
___ CT Abd/Pelvis:
1. Striated appearance of the right kidney concerning for 
pyelonephritis. 
2. Focal 1.5 x 1.7 cm hypoattenuating lesion at the upper pole 
the right kidney in region of hypoenhancing parenchyma.  While 
abscess cannot be entirely excluded, given relative lack of 
adjacent stranding in this region, this more likely may 
represents a complex cyst.  ___ after treatment will be 
necessary. 
3. These findings are superimposed on a relatively atrophic 
right kidney. 
4. No additional acute process within the abdomen or pelvis. 
Specifically no nephrolithiasis or appendicitis.

Discharge Labs:
===============
___ 06:20AM BLOOD ___ 
___ Plt ___
___ 06:20AM BLOOD ___ 
___
___ 06:20AM BLOOD ___ yo man with no past medical history who presented with 
several days of right flank pain found to have renal stranding 
suggestive of pyelonephritis and a complex renal cystic lesion. 
This was superimposed on a relatively atrophic appearing right 
kidney.

Cystic lesion was initially read as possible abscess, but on 
further review was felt to be more consistent with a complex 
cyst. He also had no fevers or leukocytosis suggestive of 
abscess.

He was seen by urology in the ED who felt that he may have 
passed a stone. They recommended medicine admission for 
antibiotics. He was initially treated with ceftriaxone but was 
switched to ampicillin after urine culture grew 
___ enterococcus. Culture grew only ___ 
organisms but elected to treat given CT findings as well as 
patient reporting symptomatic dysuria and flank pain. He was 
discharged home on amoxicillin to complete a 10 day course. He 
will need urology follow up for cystic lesion and atrophic right 
kidney.

Transitional Issues:
====================
- f/u with new PCP
- discharged on amoxicillin to treat ___ 
enterococcal UTI. Plan to complete a 10 day course finishing on 
___
- needs reimaging with likely renal mass protocol to further 
evaluate cystic lesion
- follow up with urology Dr. ___ in ___ weeks given 
atrophic appearing kidney (appointment scheduled for ___

> 30 minutes spent on discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Amoxicillin 500 mg PO Q12H 
RX *amoxicillin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*17 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pyelonephritis
Enterococcal UTI
R flank pain, possible passed renal stone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in because your were having pain in your right side and 
fevers at home. You had a CT scan that showed a possible 
infection in your kidney. We treated you with IV antibiotics 
while you were here. We are sending you home on antibiotic 
pills. You should take these pills for eight more days (last day 
___.

Your CT scan also showed a possible cyst on your kidney. It will 
be very important to have another scan of your kidney after your 
infection is treated. Your right kidney is also smaller than 
your left kidney. When you see the urologists they will talk to 
you more about doing further tests to find out the cause of 
this.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___